US09416130B2
7-(3, 5-Dimethylisoxazol-4-yl)-6-methoxy-N-(1-methoxypropan-2-yl)-3-nitroquinolin-4-amine (for a preparation see Intermediate 1) (25.8 g, 66.8 mmol) was dissolved in a mixture of ethyl acetate (1000 ml) and DMSO (50 ml) and the solution was hydrogenated using a flow-hydrogenation apparatus (H-Cube™) (settings: 20° C., 1 bar, 1 ml/min flow rate) and a 10% Pd/C CatCart 70 catalyst cartridge. The catalyst cartridge was changed whenever it became blocked. The reaction mixture was evaporated under reduced pressure and partitioned between ethyl acetate (750 ml) and water (3×750 ml). The aqueous layers were combined and extracted with ethyl acetate (750 ml). The organic layers were combined, dried (hydrophobic frit) and evaporated under reduced pressure. The residue was dissolved in DCM and applied to a silica cartridge (100 g). The cartridge was eluted with a 2M ammonia in methanol/DCM gradient (0-4%). The appropriate fractions were combined and evaporated under reduced pressure to give 7-(3,5-dimethylisoxazol-4-yl)-6-methoxy-N4-(1-methoxypropan-2-yl)quinoline-3,4-diamine and recovered 7-(3,5-dimethylisoxazol-4-yl)-6-methoxy-N-(1-methoxypropan-2-yl)-3-nitroquinolin-4-amine (6.5 g)

reactant | 7-(3, 5-Dimethylisoxazol-4-yl)-6-methoxy-N-(1-methoxypropan-2-yl)-3-nitroquinolin-4-amine | CC1=NOC(=C1C1=C(C=C2C(=C(C=NC2=C1)[N+](=O)[O-])NC(COC)C)OC)C | C19H22N4O5
solvent | ethyl acetate | 1000 ml | C(C)(=O)OCC | C4H8O2
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
catalyst | Pd/C | [Pd] | Pd
product | 7-(3,5-dimethylisoxazol-4-yl)-6-methoxy-N4-(1-methoxypropan-2-yl)quinoline-3,4-diamine | CC1=NOC(=C1C1=C(C=C2C(=C(C=NC2=C1)N)NC(COC)C)OC)C | C19H24N4O3
